US06127354
At 0° C. N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (125 mg, 0.65 mmol) was added to a solution of (2E)-5-(tertbutoxycarbonylamino)-5-methylhex-2-enoic acid (158 mg, 0.65 mmol) and 1-hydroxy-7-azabenzotriazole (88 mg, 0.65 mmol) in N,N-dimethylformamide (3 ml) and dichloromethane (3 ml). The solution was stirred for 20 min at 0° C. A solution of (2R)-N-(2-(2-(2-hydroxyethoxy)phenyl)ethyl)-N-methyl-2-(methylamino)-3-(2-naphthyl)propionamide (265 mg, 0.65 mmol) in dichlromethane (3 ml) and ethyldiisopropylamine (0.11 ml, 0.65 mmol) were added successively. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (200 ml) and washed with 10% aqueous sodium hydrogen sulfate solution (100 ml). The aqueous phase was extracted with ethyl acetate (2×50 ml). The combined organic layers were washed with saturated aqueous sodium hydrogen carbonate solution (200 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (60 g), using ethyl acetate/heptane (first: 2:1 (500 ml), then: 3:1) as elutent, to give 378 mg of (3E)-4-(N-((1R)-1-(N-(2-(2-(2-hydroxyethoxy)phenyl)ethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamoyl)-1,1-dimethylbut-3-enylcarbamic acid tert-butyl ester.

reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 0.65 mmol, 125 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2E)-5-(tertbutoxycarbonylamino)-5-methylhex-2-enoic acid | 0.65 mmol, 158 mg | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | 1-hydroxy-7-azabenzotriazole | 0.65 mmol, 88 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | (2R)-N-(2-(2-(2-hydroxyethoxy)phenyl)ethyl)-N-methyl-2-(methylamino)-3-(2-naphthyl)propionamide | 0.65 mmol, 265 mg | OCCOC1=C(C=CC=C1)CCN(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)C | C25H30N2O3
reactant | ethyldiisopropylamine | 0.65 mmol, 0.11 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (3E)-4-(N-((1R)-1-(N-(2-(2-(2-hydroxyethoxy)phenyl)ethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamoyl)-1,1-dimethylbut-3-enylcarbamic acid tert-butyl ester | 378 mg | C(C)(C)(C)OC(NC(C\C=C\C(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)CCC1=C(C=CC=C1)OCCO)=O)=O)(C)C)=O | C37H49N3O6
